US07459472B2
3-Hydroxy-naphthalene-2-carboxylic acid [2-(6-methoxy-4′-nitro-biphenyl-3-yl)-ethyl]-amide
The title compound (27 mg) was prepared from 0.05 g (0.1 mmol) of resin-bound N-2-(3-bromo-4-methoxyphenyl)ethyl-3-hydroxyl-2-naphthamide and 50.0 mg (0.3 mmol) of 4-nitro-phenyl boronic acid as described in Example 110.

reactant | N-2-(3-bromo-4-methoxyphenyl)ethyl-3-hydroxyl-2-naphthamide | 0.1 mmol, 0.05 g | BrC=1C=C(C=CC1OC)CCNC(=O)C1=CC2=CC=CC=C2C=C1O | C20H18BrNO3
reactant | 4-nitro-phenyl boronic acid | 0.3 mmol, 50.0 mg | [N+](=O)([O-])C1=CC=C(C=C1)B(O)O | C6H6BNO4
product | 3-Hydroxy-naphthalene-2-carboxylic acid [2-(6-methoxy-4′-nitro-biphenyl-3-yl)-ethyl]-amide | 27 mg | COC1=CC=C(C=C1C1=CC=C(C=C1)[N+](=O)[O-])CCNC(=O)C1=CC2=CC=CC=C2C=C1O | C26H22N2O5
